US03954871
1-(3-Methyl-4-methylthiophenyl)-2-isopropylaminoethanol gluconate
To 1.20 g of 1-(3-methyl-4-methylthiophenyl)-2-isopropylaminoethanol in 40 ml of water, 1.96 ml of a 50% gluconic acid solution are added. The mixture is heated in water-bath during 1 hour at 70°, then the solution is lyophilised (2.18 g of the salt obtained are soluble in 5 ml of water and give a pH of 4.6).

reactant | 1-(3-methyl-4-methylthiophenyl)-2-isopropylaminoethanol | 1.20 g | CC1=C(SC=C1C)C(CNC(C)C)O | C11H19NOS
reactant | gluconic acid | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H12O7
solvent | water | 40 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 1-(3-Methyl-4-methylthiophenyl)-2-isopropylaminoethanol gluconate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)OC(CNC(C)C)C=1SC=C(C1C)C | C17H29NO7S
